US04590282
To sodium hydride (0.53 g, 50% in oil, 11.0 mmol) in 40 ml of DMF, under N2 at 5°, is added, dropwise and with vigorous stirring, a solution of 4-(1-methylpropoxy)phenol (1.66 g, 10.0 mmol) in 10 ml of DMF. After the mixture is stirred at RT for 1 hour, a solution of 2-mesyloxymethyl-1,4-benzodioxin (2.70 g, 11.0 mmol) in 10 ml of DMF is slowly added. The resulting reaction mixture is stirred at RT for 48 hours and is then mixed with water and extracted with ether. The combined organic extracts are washed with water and with brine, dried and solvent removed and the product is purified by column chromatography to give 2-[4-(1-methylpropoxy)phenoxymethyl]-1,4-benzodioxin, MS m/e 315 (M+).

reactant | sodium hydride | 11.0 mmol, 0.53 g | [H-].[Na+]
reactant | 4-(1-methylpropoxy)phenol | 10.0 mmol, 1.66 g | CC(CC)OC1=CC=C(C=C1)O | C10H14O2
reactant | 2-mesyloxymethyl-1,4-benzodioxin | 11.0 mmol, 2.70 g | S(=O)(=O)(C)OCC1=COC2=C(O1)C=CC=C2 | C10H10O5S
reactant | water | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[4-(1-methylpropoxy)phenoxymethyl]-1,4-benzodioxin | CC(CC)OC1=CC=C(OCC2=COC3=C(O2)C=CC=C3)C=C1 | C19H20O4
